US05453497
12.9 g of 5-fluorocytosine was suspended in 78 ml of pyridine, followed by addition of 23.1 g of 3,4,5-trimethoxybenzoyl chloride and stirring at 100° C. for 5 hours. The reaction mixture was cooled down to room temperature and then poured into 310 ml of water at room temperature over a period of 20 minutes. The precipitated crystals were collected by filtration to obtain 29.2 g (90.4%) of 5-fluro-N4 -(3,4,5-trimethoxybenzoyl)cytosine.

reactant | 5-fluorocytosine | 12.9 g | FC=1C(=NC(NC1)=O)N | C4H4FN3O
reactant | 3,4,5-trimethoxybenzoyl chloride | 23.1 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | water | 310 ml | O | H2O
solvent | pyridine | 78 ml | N1=CC=CC=C1 | C5H5N
product | 5-fluro-N4 -(3,4,5-trimethoxybenzoyl)cytosine | 29.2 g, 90.4% | FC=1C(=NC(NC1)=O)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C14H14FN3O5
